US08252781B2
Preparation of 1-(cyclohexa-2-ene-1-yl)-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one
2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one prepared in Process 3 of Example 12, and 3-bromocyclohexene were used for a similar reaction and treatment as Process 6 of Example 1, and the title compound was obtained as a colorless oil.

reactant | 2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | 3-bromocyclohexene | BrC1C=CCCC1 | C6H9Br
product | 1-(cyclohexa-2-ene-1-yl)-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one | C1(C=CCCC1)N1N(C(C1(C)C)=O)C1C2CC3CC(CC1C3)C2 | C20H30N2O
